US05256675
To a mixture of 2-propionylamino-5-(4-nitrophenylthio)thiazole (3 g), and ammonium chloride (1 g) in a mixture of ethanol (100 ml), water (30 ml) and tetrahydrofuran (70 ml) was portionwise added the iron powder at 80° C. with stirring. The mixture was refluxed for 2 hours with stirring. The reaction mixture was filtered by suction and the filtrate was concentrated under reduced pressure. The residue was triturated with water, the precipitates were collected by filtration and washed with water to give solid. The solid was recrystallized from ethanol to give 2-propionylamino-5-(4-aminophenylthio)thiazole (2.6 g, yield: 96.3%). mp: 185°-187° C.

reactant | 2-propionylamino-5-(4-nitrophenylthio)thiazole | 3 g | C(CC)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C12H11N3O3S2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | water | 30 ml | O | H2O
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | 2-propionylamino-5-(4-aminophenylthio)thiazole | 2.6 g, yield: 96.3% | C(CC)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)N | C12H13N3OS2
